US06890452B2
A 1 L 3-necked round bottom flask equipped with a mechanical stirrer, thermocouple, reflux condenser and heating mantle was charged with C4F9SO2NHC3H7 (93.6 g; 0.27 moles; as prepared above), NaOH (13.6 g; 0.35 moles; pellets) and water (90 mL) and heated at 98° C. for 45 minutes. Upon cooling to 76° C., CHPS (67.5 g; 0.34 moles) was added and the temperature was then increased to 100° C. and maintained for 18 hours. Water was then added (250 mL) and a viscous yellow liquid formed in the bottom of the flask. The upper liquid phase was decanted off and discarded leaving a thick yellow liquid, to which water (250 mL) was added. The temperature of the mixture was increased to 50° C., then cooled to 19° C. Upon removal of water a créme colored solid remained, C4F9SO2N(C3H7)CH2CH(OH)CH2SO3Na (111.4 g; 81% yield).

reactant | C4F9SO2NHC3H7 | 0.27 moles, 93.6 g | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)F)S(=O)(=O)NCCC | C7H8F9NO2S
reactant | NaOH | 0.35 moles, 13.6 g | [OH-].[Na+]
reactant | water | 250 mL | O | H2O
reactant | water | 90 mL | O | H2O
product | C4F9SO2N(C3H7)CH2CH(OH)CH2SO3Na | 111.4 g, 81% yield | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)F)S(=O)(=O)N(CCC)CC(O)CS(=O)(=O)O[Na] | InChI=1S/C10H14F9NO6S2.Na/c1-2-3-20(4-6(21)5-27(22,23)24)28(25,26)10(18,19)8(13,14)7(11,12)9(15,16)17;/h6,21H,2-5H2,1H3,(H,22,23,24);/q;+1/p-1
